US06750232B2
3-(Dimethylamino)-1-(2-furyl)-2-(4-pyridyl)-2-propen-1-one
N,N-Dimethylformamide dimethylacetal (5 mL) was added to 1-(2-furyl)-2-(4-pyridyl)-1-ethanone (2.0 g, 10.7 mmol), followed by stirring at 100° C. for 2 hours. After cooling as it was, the reaction solution was diluted with ethyl acetate and an aqueous saturated solution of ammonium chloride. The aqueous layer was extracted with ethyl acetate (×6). The combined organic layer was dried over anhydrous sodium sulfate and concentrated, to give the title compound (2.5 g, 97%) as a reddish brown oil.

reactant | N,N-Dimethylformamide dimethylacetal | 5 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-(2-furyl)-2-(4-pyridyl)-1-ethanone | 10.7 mmol, 2.0 g | O1C(=CC=C1)C(CC1=CC=NC=C1)=O | C11H9NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Dimethylamino)-1-(2-furyl)-2-(4-pyridyl)-2-propen-1-one | 2.5 g, 97% | CN(C=C(C(=O)C=1OC=CC1)C1=CC=NC=C1)C | C14H14N2O2
